US08383621B2
4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzonitrile (D1)
A suspension of 4-ethyl-5-fluoro-2-methoxyphenol (1 g, 5.87 mmol), 3,4-difluorobenzonitrile (899 mg, 6.46 mmol) and potassium hydroxide (395 mg, 7.04 mmol) in anhydrous acetonitrile (35 mL) under argon was stirred at 80° C. overnight. The reaction mixture was concentrated under vacuum and diluted with ethyl acetate and a saturated aqueous solution of ammonium chloride. The aqueous layer was separated and extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtrated and concentrated in vacuo to give a brown oil (1.6 g). The crude product was purified by flash chromatography on silica gel, using cyclohexane/ethyl acetate (9:1) as eluent. The title product was obtained as a colourless oil that crystallized slowly (1.42 g, 84%).

reactant | 4-ethyl-5-fluoro-2-methoxyphenol | 5.87 mmol, 1 g | C(C)C1=CC(=C(C=C1F)O)OC | C9H11FO2
reactant | 3,4-difluorobenzonitrile | 6.46 mmol, 899 mg | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | potassium hydroxide | 7.04 mmol, 395 mg | [OH-].[K+]
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzonitrile | 1.6 g | C(C)C1=CC(=C(OC2=C(C=C(C#N)C=C2)F)C=C1F)OC | C16H13F2NO2
